US09340538B2
4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.6 g, 1.2 mmol) was reacted with morpholine-2-carboxylic acid hydrochloride (0.3 g, 1.8 mmol) according to the procedure as described in Example 3 to give the title compound as a yellow solid (0.2 g, 30%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.2 mmol, 0.6 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | morpholine-2-carboxylic acid hydrochloride | 1.8 mmol, 0.3 g | Cl.N1CC(OCC1)C(=O)O
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid | 0.2 g, 30% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1CC(OCC1)C(=O)O)C(=O)OCC | C22H22BrFN4O5S
